US06797699B1
N′-L-Arginylspermidine [Compound of Formula A]
0.152 g of N1-Fluorenylmethoxycarbonyl-N4-(4′-benzoyloxycarbonyl-(1′-phenoxy)ethanoamido resin)-N8-t-butoxycarbonylspermidine was treated with 5 ml of a 20% v/v solution of piperdine in dimethylformamide. The resin was filtered, and then treated again with 5 ml of a 20% v/v solution of piperidine in dimethylformamide for a further 30 minutes. At the end of this time, the resin was filtered and washed, in that order, with 10 ml of dimethylformamide, 5 ml of methanol and finally twice, each time with 10 ml of methylene chloride. Fmoc-Arg(Pmc)OH (0.1027 g, 0.154 mmol) was dissolved in methylene chloride (9 ml), and then HOBt (0.021 g, 0.155 mmol) was added. After 10 minutes at room temperature, N4-(4′-Benzoyloxycarbonyl (1′-phenoxy)ethanoamido resin)-N8-t-butoxycarbonylspermidine (0.1032 g, 0.031 mmol) was added followed by DIC (24 ml, 0.155 mmol). The mixture was gently stirred at room temperature for 20 hours. Following a negative ninhydrin test the resin was filtered and washed with methylene chloride (1× ml), methanol (1×5 ml), methylene chloride (2×10 ml) then dried under vacuum. Fmoc removal was carried out as above. N1-Arg(Pmc)-N4-(4′-Benzoyloxycarbonyl-(1′-phenoxy)ethanoamido resin)-N8-t-butoxycarbonylspermidine was deprotected/cleaved using TFA-phenol-water-triisopropylsilane-ethane-1,2-dithiol (EDT) (81.5:5:5:1:2.5 by volume; 2.5 ml) for 5 hours at room temperature. The resin was removed by filtration through a Pasteur pipette containing a tight plug of glass wool and washed with methylene chloride (4×4 ml). The solvent was removed in vacuo, the residue dissolved in CH3CN (1 ml) and poured into cold diethyl ether (25 ml) to give a white precipitate which was separated by centrifugation. The supernatant was decanted and the solid resuspended in diethyl ether (25 ml). The solid was again separated by centrifugation and the procedure repeated twice. The product was dissolved in water before freeze-drying. The product (19.2 mg) was analysed and purified by RP-HPLC (ODS, eluting isocratically with water/0.1% TFA).

reactant | piperdine | N1CCCCC1 | C5H11N
reactant | Fmoc-Arg(Pmc)OH | 0.154 mmol, 0.1027 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C35H42N4O7S
reactant | HOBt | 0.155 mmol, 0.021 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | 0.155 mmol, 24 ml | CC(N=C=NC(C)C)C | C7H14N2
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | N′-L-Arginylspermidine | N[C@@H](CCCNC(N)=N)C(=O)N(CCCCN)CCCN | C13H31N7O
